US08492378B2
3-[5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]propionic acid
To a mixture of ethyl 3-[5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]propionate (5.20 g, 18.04 mmol), ethanol (30 mL) and tetrahydrofuran (15 mL) was added 1 M aqueous sodium hydroxide solution (20 mL), and the resulting mixture was stirred at room temperature for 3 hr. The reaction mixture was neutralized with 5 M hydrochloric acid, and extracted with ethyl acetate/tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from methanol/diethyl ether to give the title compound (3.63 g, yield 77%) as colorless crystals.

reactant | ethyl 3-[5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]propionate | 18.04 mmol, 5.20 g | O1CCC2=C1C=CC(=C2)C2=NN=C(O2)CCC(=O)OCC | C15H16N2O4
reactant | ethanol | 30 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 1 M, 20 mL | [OH-].[Na+]
reactant | hydrochloric acid | 5 M | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-[5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]propionic acid | 3.63 g, yield 77% | O1CCC2=C1C=CC(=C2)C2=NN=C(O2)CCC(=O)O | C13H12N2O4
